US04990534
Benzophenone imine (0.8 g, 2.9 mmol) and finely ground 1-(4-chlorophenyl)-2-methyl-2-propyl glycinate hydrochloride and 10 ml of CH2Cl2 were stirred at room temperature over night with the exclusion of moisture (CaCl2 tube). The reaction mixture was filtered to remove NH4Cl, and evaporated to dryness. The residue was taken up in 10 ml of ether, washed with water and dried. Filtration and removal of the solvent were followed by flash chromatography on SiO2 saturated with NH3 (methanol/NH3) with hexane: ethyl acetate 97:3 as eluent to yield 0.8 g (63%) of 1-(4-chlorophenyl)-2-methyl-2-propyl N-(diphenylmethylene)glycinate. 1H NMR (CDCl3, 60 MHz) δppm 7.5(m, 10, arom), 4.2(s, 2, N-CH2), 3.1(s, 2, benzylic), 1.5(s, 6, C(CH3)2).

reactant | Benzophenone imine | 2.9 mmol, 0.8 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=N | C13H11N
reactant | 1-(4-chlorophenyl)-2-methyl-2-propyl glycinate hydrochloride | Cl.NCC(=O)OC(CC1=CC=C(C=C1)Cl)(C)C
reactant | CaCl2 | [Cl-].[Cl-].[Ca+2]
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | 1-(4-chlorophenyl)-2-methyl-2-propyl N-(diphenylmethylene)glycinate | 0.8 g, 63% | C1(=CC=CC=C1)C(=NCC(=O)OC(CC1=CC=C(C=C1)Cl)(C)C)C1=CC=CC=C1 | C25H24ClNO2
